US06130238
A suspension of 2.1 g of 5-chlorosulfonyl-2-oxindole, 1.6 g of 4-trifluoromethylaniline and 1.4 g of pyridine in 20 mL of dichloromethane was stirred at room temperature for 4 hours. The precipitate which formed was collected by vacuum filtration, washed twice with 5 mL of water and dried under vacuum at 40° C. overnight to give 2.4 g of crude product containing some impurities by thin layer chromatography. The crude product was chromatographed on silica gel eluting with ethyl acetate:hexane (1:2) to give 1.2 g (37% yield) of 5-(4-trifluoromethylphenylaminosulfonyl)-2-oxindole.

reactant | 5-chlorosulfonyl-2-oxindole | 2.1 g | ClS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H6ClNO3S
reactant | 4-trifluoromethylaniline | 1.6 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | pyridine | 1.4 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-(4-trifluoromethylphenylaminosulfonyl)-2-oxindole | 1.2 g, 37% yield | FC(C1=CC=C(C=C1)NS(=O)(=O)C=1C=C2CC(NC2=CC1)=O)(F)F | C15H11F3N2O3S
